US08859544B2
Ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate
0.36 ml of diethyl ethoxymethylene malonate is added, under an inert atmosphere at ambient temperature, to 0.4 g (1.43 mmol) of (4-aminophenyl)(1-methoxy-2-methylindolizin-3-yl)methanone in 6 ml of toluene. The reaction medium is heated at 110° C. for 1 h 45 and then concentrated under reduced pressure. The residue obtained is dissolved in 8.2 ml of diphenyl ether and then heated at 230° C. for 1 h 20. After the addition of diisopropyl ether and pentane at ambient temperature, the precipitate formed is filtered off and rinsed with pentane. The residue obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (90/10) mixture. 142 mg of a yellow powder are obtained.

reactant | diethyl ethoxymethylene malonate | 0.36 ml | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | (4-aminophenyl)(1-methoxy-2-methylindolizin-3-yl)methanone | 1.43 mmol, 0.4 g | NC1=CC=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OC)C | C17H16N2O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | pentane | CCCCC | C5H12
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | diphenyl ether | 8.2 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate | 142 mg | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(C(=CNC2=CC1)C(=O)OCC)=O)C | C23H20N2O5
